US07018988B2
(2S,4EZ)-1-(diphenylacetyl)-N-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 77% purity by LC/MS. MS(ESI+): m/z=545.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-1-(diphenylacetyl)-N-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | C1(=CC=CC=C1)C(C(=O)N1[C@@H](CC(C1)=NOC)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC)C1=CC=CC=C1 | C34H32N4O3
